US08476470B2
(Step 3): 4-(Benzylamino)-2-hydroxybicyclo[2.2.2]octane-1-carboxylic acid ethyl ester
Ethanol (2 mL) was added to 4-(benzylamino)-2-oxobicyclo-[2.2.2]octane-1-carboxylic acid ethyl ester (200 mg, 0.66 mmol) and then the resulting mixture was stirred. The resulting mixture was cooled to 0° C., sodium boron hydride (38 mg, 1 mmol) was added thereto, the temperature thereof was raised up to room temperature and then the mixture was stirred for 30 minutes. After quenching the reaction mixture with a 18% aqueous ammonium chloride solution, the mixture was made uniform with water and acetonitrile and then quantitatively analyzed (according to the LC technique). As a result, the yield of the desired product was found to be 83% (the internal standard substance used was 1,2,4-trimethylbenzene).

reactant | 4-(benzylamino)-2-oxobicyclo-[2.2.2]octane-1-carboxylic acid ethyl ester | 0.66 mmol, 200 mg | C(C)OC(=O)C12C(CC(CC1)(CC2)NCC2=CC=CC=C2)=O | C18H23NO3
reactant | sodium boron hydride | 1 mmol, 38 mg | B.[Na]
solvent | Ethanol | 2 mL | C(C)O | C2H6O
product | 4-(Benzylamino)-2-hydroxybicyclo[2.2.2]octane-1-carboxylic acid ethyl ester | C(C)OC(=O)C12C(CC(CC1)(CC2)NCC2=CC=CC=C2)O | C18H25NO3
